US05547606
(Preparation of 1-(3,4-difluorophenyl)-4-(2-(trans-4-n-pentylcyclohexyl) ethyl)-1-silacyclohexane)
A 15 ml THF solution of 1.0M 3,4-difluorophenylmagnesium bromide (15 mmol) was dripped into a mixed solution of 2.5 g (7.9 mmol) of 1-chloro-4-(2-(trans-4-n-pentylcyclohexyl) ethyl)-1-silacyclohexane and 50 ml of THF.

reactant | 3,4-difluorophenylmagnesium bromide | 15 mmol, 1.0M | FC=1C=C(C=CC1F)[Mg]Br
reactant | 1-chloro-4-(2-(trans-4-n-pentylcyclohexyl) ethyl)-1-silacyclohexane | 7.9 mmol, 2.5 g | Cl[SiH]1CCC(CC1)CC[C@@H]1CC[C@H](CC1)CCCCC | C18H35ClSi
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | 1-(3,4-difluorophenyl)-4-(2-(trans-4-n-pentylcyclohexyl) ethyl)-1-silacyclohexane | FC=1C=C(C=CC1F)[SiH]1CCC(CC1)CC[C@@H]1CC[C@H](CC1)CCCCC | C24H38F2Si
